US05877191
Step B: (3R,5R,6S,7S)-7-(Benzyloxymethyl)-6-(4-fluorophenyl)-3-(-2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane
A solution was prepared by dissolving 10 mg (0.019 mmol) of (3S,5R,6S,7S)-7-(benzyloxymethyl)-6-(4-fluorophenyl)-3-hydroxy-3-(2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane in 0.20 mL of trifluoroacetic acid at RT, and triethylsilane (0.009 mL, 7 mg, 0.06 mmol) was added immediately. After 30 min., the reaction was diluted with 25 mL of ethyl acetate and washed with 5 m L of saturated aqueous sodium bicarbonate and 5 mL of saturated aqueous sodium chloride. The organic solution was dried over sodium sulfate, decanted, and evaporated. The crude product was purified by preparative TLC, eluting with 3% ethyl ether in toluene, to yield 2.4 mg of the title compound.

reactant | (3S,5R,6S,7S)-7-(benzyloxymethyl)-6-(4-fluorophenyl)-3-hydroxy-3-(2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane | 0.019 mmol, 10 mg | C(C1=CC=CC=C1)OC[C@@H]1[C@H]([C@]2(C[C@@](CO2)(C2=C(C=CC(=C2)C(F)(F)F)OC)O)CC1)C1=CC=C(C=C1)F | C30H30F4O4
reactant | triethylsilane | 0.06 mmol, 0.009 mL, 7 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 0.20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (3R,5R,6S,7S)-7-(Benzyloxymethyl)-6-(4-fluorophenyl)-3-(-2-methoxy-5-(trifluoromethyl)phenyl)-1-oxaspiro[4.4]nonane | 2.4 mg | C(C1=CC=CC=C1)OC[C@@H]1[C@H]([C@]2(C[C@@H](CO2)C2=C(C=CC(=C2)C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C30H30F4O3
